US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(1S,2R)-2-methoxy-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1S,2R)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and iodomethane and making non-critical variations provided the title compound as a colorless syrup. IR (liq.) 3447, 2972, 2934, 2907, 2877, 1589, 1565, 1552, 1498, 1471, 1391, 1375, 1196, 1177, 1093 cm−1; OAMS supporting ions at: ESI+ 442.0; MS (EI) m/z 441 (M+); [α]25D=55 (c 0.51, methanol); Anal. Calcd for C24H25Cl2N3O: C, 65.16; H, 5.70; N, 9.50. Found: C, 65.20; H, 5.63; N, 9.43.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1S,2R)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1[C@@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | iodomethane | IC | CH3I
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(1S,2R)-2-methoxy-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1[C@@H](CC2=CC=CC=C12)OC)CC | C24H25Cl2N3O
